US07022677B1
N-(2-Ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid ethylester, 3
To dichloromethane solution (350 ml) of 2-ethyl butanoic acid 5.68 g (48.9 mmol) under cooling on ice-water, HOBt 6.76 g (50 mmol), EDC 9.6 g (50 mmol) were added, stirring was continued for 30 min. 2(S)-pyrrolidine-carboxylic acid ethylester hydrochloride 8 g (45 mmol), NMM 4.55 g (45 mmol) were added to the reaction mixture and then stirred at room temperature for overnight. After then, the reaction mixture was washed with water, 1% sodium hydroxide solution, and then water sequentially. The organic layer was dried over sodium sulfate and the solvents were removed in vacuo. Purification by silica gel chromatography gave a desired product as an oil (8.16 g). NMR was consistent with the desired title product.

reactant | 2-ethyl butanoic acid | 48.9 mmol, 5.68 g | C(C)C(C(=O)O)CC | C6H12O2
reactant | HOBt | 50 mmol, 6.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 50 mmol, 9.6 g
reactant | 2(S)-pyrrolidine-carboxylic acid ethylester hydrochloride | 45 mmol, 8 g | Cl.C(C)OC(=O)[C@H]1NCCC1
reactant | NMM | 45 mmol, 4.55 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | N-(2-Ethylbutyryl)-2(S)-pyrrolidine-carboxylic acid ethylester | 8.16 g | C(C)OC(=O)[C@H]1N(CCC1)C(C(CC)CC)=O | C13H23NO3
